Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ Stress test: 
INTERPRETATION: ___ yo woman with HL, smoking and family history 
for 
CAD was referred to evaluate an atypical chest discomfort. The 
patient 
completed 9.75 minutes of ___ protocol representing a good 
exercise 
tolerance; ~ ___ METS. The exercise test was stopped due to 
fatigue. 
Early on (5:30 min exercise), the patient reported an anterior 
chest 
tightness; ___. This discomfort did not get worse with 
continued 
exercise and was reportedly worse with inspiration. This 
discomfort was 
absent 5 minutes post-exercise. Three minutes into recovery, the 
patient 
reported a left-sided discomfort under her breast radiating 
posteriorly 
into the back; ___. The back discomfort was reportedly worse 
with 
postitional changes of hunching forward. This discomfort 
resolved slowly 
in recovery. No significant ST segment changes were noted during 
the 
procedure. The rhythm was sinus with no ectopy noted. The 
hemodynamic 
response to exercise was appropriate. 
  
IMPRESSION: Good exercise tolerance. Atypical symptoms with no 
objective ECG evidence of myocardial ischemia. Appropriate 
hemodynamic 

Diagnostic testing: ___ CXR: No acute cardiopulmonary 
process 

 
History of Present Illness:
___ yo female with history of HLD and one month of crescendo 
angina seen by PCP and referred for stress testing that was 
positive. Patient was to have a persantine stress test that was 
denied by her insurance company outpatient and presents today 
with symptoms of chest pain, radiation into jaw and left arm 
while at dinner with her daughter in ___. Patient reports 
episodes of chest pain at rest and with exertion (household 
chores) ___ times daily that resolve anywhere from ___ minutes. 
She denies lightheadedness, diaphoresis or syncope however does 
report numbness on left jaw/cheek and intermittent headache. She 
does report episodes of nausea with chest pain but no vomiting. 
She is being admitted for further work up.
 
Past Medical History:
Hyperlipidemia
Arthritis
 
Social History:
___
Family History:
Maternal grandmother died of sudden cardiac arrest (age ___
No other contributing family history
 
Physical Exam:
ADMISSION PE:
EKG: See above
Tele: NSR no ectopy
VS: T 98.0, HR 66, BP 125/83, RR 16, O2 SAT 98% RA 
Gen: Sitting in bed, in NAD
Neuro: Alert and oriented x 3, following commands, answering 
questions appropriately and no focal deficits
Neck/JVP: (-) JVP, (-) carotid bruits bilaterally
CV: RRR, S1, S2 with no m/r/g or clicks
Chest: LS CTA throughout, no wheezes/rubs or accessory muscle 
use
ABD: Soft, NT/ND with +BS throughout
Extr: +dorsal/pedal pulses by palpation, warm and perfused. No 
edema.
Access sites: PIV
Skin: Intact without rash or varicosities

DISCHARGE PE: 
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent. 
 Gen: No acute distress, denies pain 
 Neuro: A+Ox3, MAE 
 Neck/JVP: No JVD 
 CV: RRR, no murmurs 
 Chest: Lungs clear bilaterally 
 ABD: Soft, non-tender, non-distended. Bowel sounds present 
 Extr: No edema, feet warm 
 Skin: Warm, dry and intact. No rashes or breakdown 
 
Pertinent Results:
___ 07:04PM BLOOD WBC-5.9 RBC-3.93 Hgb-12.9 Hct-38.1 MCV-97 
MCH-32.8* MCHC-33.9 RDW-12.1 RDWSD-43.8 Plt ___
___ 07:04PM BLOOD Neuts-52.4 ___ Monos-7.0 Eos-3.6 
Baso-0.3 Im ___ AbsNeut-3.08 AbsLymp-2.14 AbsMono-0.41 
AbsEos-0.21 AbsBaso-0.02
___ 07:04PM BLOOD Plt ___
___ 07:04PM BLOOD ___ PTT-30.6 ___
___ 07:04PM BLOOD Glucose-109* UreaN-10 Creat-0.6 Na-139 
K-3.7 Cl-105 HCO3-22 AnGap-16
___ 07:04PM BLOOD ALT-12 AST-17 AlkPhos-62 TotBili-0.3
___ 01:02AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:04PM BLOOD CK-MB-1
___ 07:04PM BLOOD Calcium-9.2 Phos-2.9 Mg-2.4 Cholest-181
___ 07:04PM BLOOD Triglyc-177* HDL-59 CHOL/HD-3.1 
LDLcalc-87
___ 06:55AM BLOOD WBC-4.8 RBC-3.81* Hgb-12.6 Hct-37.5 
MCV-98 MCH-33.1* MCHC-33.6 RDW-12.4 RDWSD-44.9 Plt ___
___ 06:55AM BLOOD ___ PTT-30.4 ___
___ 06:55AM BLOOD Glucose-87 UreaN-9 Creat-0.6 Na-140 K-4.1 
Cl-105 HCO3-23 AnGap-16
___ 06:55AM BLOOD Calcium-8.7 Phos-2.9 Mg-2.3
___ 06:55AM BLOOD CK-MB-1 cTropnT-<0.01
___ 01:02AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:04PM BLOOD cTropnT-<0.___ ___ yo female with history of HLD and one month of crescendo 
angina who presented to the ER yesterday after an episode of 
chest discomfort while at lunch. She was admitted for a rule out 
MI and a stress test. 

 # Atypical chest pain: Ruled out for an MI by cardiac enzymes. 
Stress test showed good exercise tolerance. Atypical symptoms 
with no objective ECG evidence of myocardial ischemia. 
Appropriate hemodynamic 
- ASA 81 mg daily 
- Follow up with PCP for further evaluation and a GI workup 

 # Hyperlipidemia: LDL 87 HDL 59 Cholesterol 181 Trig 177 
 - continue Simvastatin 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 10 mg PO QPM 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-You were admitted for chest pain, you did not have a heart 
attack.  You stress test was normal and did not show any signs 
of ischemia.  -You should follow up with your primary care 
physician for ___ intestinal work-up.  
-Please continue you current medications, no changes.  You may 
want to consider taking Omeprazole (Prilosec) 40mg a day to 
reduce esophageal reflux and see if this helps with your 
symptoms until you see your PCP.  You can buy this OTC
 
Followup Instructions:
___